US07595327B2
To a 0° C. solution of 4-(1-phenyl-ethylamino)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester (4.5 g, 17.28 mmol) in THF (50 mL) was added Hunig's base and di-tert-butyl dicarbonate (4.5 g, 20.79 mmol), as a solution in THF (5 mL). The reaction was allowed to warm to 25° C. over 19 h and then saturated aqueous sodium bicarbonate (20 mL) was added. The mixture was washed with water (2×30 mL) and brine (30 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by Biotage Flash 40M chromatography, eluting with ethyl acetate-hexanes (1:2), to afford 4-(1-phenyl-ethylamino)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester as an amorphous off white solid (4.1 g, 66%). MS: 361 (M+H)+

reactant | 4-(1-phenyl-ethylamino)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 17.28 mmol, 4.5 g | COC(=O)C=1CNCCC1NC(C)C1=CC=CC=C1 | C15H20N2O2
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 20.79 mmol, 4.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(1-phenyl-ethylamino)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C=1CN(CCC1NC(C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H28N2O4
